US08957062B2
Step A: benzyl 4-((1R,2S)-2-{-[(3-methyl-5-nitropyridin-2-yl)oxy]ethyl}cyclopropyl)piperidine-1-carboxylate
To the solution of benzyl 4-[(1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate (3.0 g, 9.89 mmol) in 10 ml of anhydrous DMF was added NaH (0.40 g, 9.89 mmol) in small portions at RT and the final resulting solution was stirred for 15 min. Commercially available 2-chloro-3-methyl-5-nitropyridine (1.37 g, 7.91 mmol) was added in 10 portions over 2 minutes and the resulting mixture was stirred 3 hrs at RT. The reaction mixture was quenched with ice cooled aqueous sat'd NH4Cl solution and extracted with ethyl acetate/ether (1:1) (2×50 mL). The organics were combined, dried over sodium sulfate, filtered, and the filtrate concentrated under reduced pressure. The residue was purified on Biotage column (40M+ silica gel) using a gradient eluant of 0-60% ethyl acetate in hexane (800 ml) to afford the title compound. LC/MS (m/z): 440 (M+H)+.

reactant | benzyl 4-[(1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate | 9.89 mmol, 3.0 g | OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H25NO3
reactant | NaH | 9.89 mmol, 0.40 g | [H-].[Na+]
reactant | 2-chloro-3-methyl-5-nitropyridine | 7.91 mmol, 1.37 g | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | benzyl 4-((1R,2S)-2-{-[(3-methyl-5-nitropyridin-2-yl)oxy]ethyl}cyclopropyl)piperidine-1-carboxylate | CC=1C(=NC=C(C1)[N+](=O)[O-])OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C24H29N3O5
